US07129238B2
To a solution of (RS)-[4-(tert-butyl-diphenyl-silanyloxy)-2,6-difluoro-phenyl]-ethoxy-acetic acid ethyl ester (10.4 g) in a THF (50 ml), MeOH (50 ml) and H2O (20 ml) mixture was added LiOH.H2O (1.75 g) and it was stirred 2 h at 60° C. After cooling water (240 ml) was added and the solution was washed with TBME (240 ml). The aqueous layer was collected, TBME was added (240 ml) and the mixture was acidified with 1 N HCl sol. The aqueous layer was extracted with one more portion of TBME. The combined organic layers were dried (MgSO4) and the solvent was evaporated to obtained an oil. Solid (RS)-(2,6-difluoro-4-hydroxy-phenyl)-ethoxy-acetic acid (4.6 g, 95%) was obtained after addition of AcOEt, evaporation of it and drying on the high vacuum over night. Off-white solid. MS 231.1 ([M−H]−).

reactant | (RS)-[4-(tert-butyl-diphenyl-silanyloxy)-2,6-difluoro-phenyl]-ethoxy-acetic acid ethyl ester | 10.4 g | C(C)OC(C(OCC)C1=C(C=C(C=C1F)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)F)=O | C28H32F2O4Si
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | MeOH | 50 ml | CO | CH4O
reactant | LiOH.H2O | 1.75 g | O[Li].O
solvent | water | 240 ml | O | H2O
solvent | H2O | 20 ml | O | H2O
product | (RS)-(2,6-difluoro-4-hydroxy-phenyl)-ethoxy-acetic acid | 4.6 g, 95% | FC1=C(C(=CC(=C1)O)F)C(C(=O)O)OCC | C10H10F2O4
